US07169803B2
(S)-tert-butyl 2-((S)-3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)indoline-1-carboxamido)-3-methylbutanoate (XVIII5): Following general procedure (F), after forming the intermediate, L-valine t-butyl ester hydrochloride (0.321 g, 1.53 mmol) and triethylamine (0.41 mL, 2.92 mmol) were added. After work-up and purification, 0.40 g of the title compound as a white foam solid was obtained (52% yield). mp: 56–60° C. MS: 489 (no mother ion). Anal. Calcd. for C26H27ClF4N2O5: C, 55.87; H, 4.87; N, 5.01. Found: C, 55.95; H, 4.89; N, 4.89. 1H NMR (CDCl3): δ 0.99 (d, J=6.9 Hz, 3H), 1.04 (d, J=6.8 Hz, 3H), 1.51 (s, 9H),2.33 (m, 1H), 3.55 (s, 3H), 4.50 (dd, J=8.5 Hz, 4.5 Hz, 1H), 6.78 (dd, J=8.8 Hz, 1.2 Hz, 1H), 7.27 (m, 1H), 7.37 (dd, J=8.7 Hz, 2.6 Hz, 1H), 7.43 (d, J=7.9 Hz, 1H), 7.81 (dd, J=2.6 Hz, 0.9 Hz, 1H), 8.6 (s, 1H), 8.70 (d, J=8.4 Hz, 1H). IR (KBr, cm−1): 3338, 2972, 1761, 1735, 1717, 1531, 1491, 1439, 1319, 1261, 1173, 1132, 1061.

reactant | (S)-tert-butyl 2-((S)-3-(5-chloro-2-methoxyphenyl)-3-fluoro-2-oxo-6-(trifluoromethyl)indoline-1-carboxamido)-3-methylbutanoate | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)C(=O)N[C@H](C(=O)OC(C)(C)C)C(C)C)=O)F)OC | C26H27ClF4N2O5
reactant | triethylamine | 2.92 mmol, 0.41 mL | C(C)N(CC)CC | C6H15N
product | L-valine t-butyl ester hydrochloride | 1.53 mmol, 0.321 g, 52% yield | Cl.C(C)(C)(C)OC([C@@H](N)C(C)C)=O | InChI=1S/C9H19NO2.ClH/c1-6(2)7(10)8(11)12-9(3,4)5;/h6-7H,10H2,1-5H3;1H/t7-;/m0./s1
